US05173496
Using an analogous procedure to that described in Examples 48-51 treatment of 1,2-dihydro-2-benzyl-6-methoxy-3H-indazol-3-one (Ex. 174) with boron tribromide gave 1,2-dihydro-2-benzyl-6-hydroxy-3H-indazol-3-one as a solid, m.p. 206-207° C. in 21% yield.

reactant | 1,2-dihydro-2-benzyl-6-methoxy-3H-indazol-3-one | C(C1=CC=CC=C1)N1NC2=CC(=CC=C2C1=O)OC | C15H14N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 1,2-dihydro-2-benzyl-6-hydroxy-3H-indazol-3-one | 21% yield | C(C1=CC=CC=C1)N1NC2=CC(=CC=C2C1=O)O | C14H12N2O2
